US07642361B2
3-(4-Iodophenyl)-4-cyano-thiophene-2-carboxylic acid ethyl ester
Add NaBH4 (0.26 mmol) to a solution of 3-(4-iodophenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester, prepared in example E-3, in 2 mL of EtOH at 0° C. Remove the ice-bath and stir at room temperature. After 30 min, add additional NaBH4 (0.26 mmol) and stir and additional 30 minutes. Remove the solvent in vacuo and extract the residue with 50 mL of 1/9 MeOH/CH2Cl2. Evaporate and chromatograph (hexane:ethyl acetate 3:1) over silica gel to provide the title compound: MS (ES+, m/e): 384 (M+1).

reactant | NaBH4 | 0.26 mmol | [BH4-].[Na+]
reactant | 3-(4-iodophenyl)-4-cyano-5-methylsulfanyl-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC(=C(C1C1=CC=C(C=C1)I)C#N)SC | C15H12INO2S2
reactant | NaBH4 | 0.26 mmol | [BH4-].[Na+]
solvent | EtOH | 2 mL | CCO | C2H6O
product | 3-(4-Iodophenyl)-4-cyano-thiophene-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1SC=C(C1C1=CC=C(C=C1)I)C#N | C14H10INO2S
